US09085534B2
3-[(4-chlorobenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 32% yield from 4-chlorobenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.45 (br s, 1H), 8.04 (s, 1H), 7.76 (d, 1H, J=5.0 Hz), 7.51 (d, 1H, J=5.0 Hz), 7.29-7.36 (m, 4H), 4.51 (s, 2H). [M+H] calc'd for C13H1lClN2O2, 263, 265; found 263, 265.

reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(4-chlorobenzyl)amino]pyridine-4-carboxylic acid | 32% yield | ClC1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C13H11ClN2O2
